US04152136
3,5-bis(3-chlorophenyl)-1-methyl-4(1H)-pyridone
The aminoformylating reagent was made by adding 30 g. of dimethylformamide dropwise to 20 g. of phosgene in 150 ml. of chloroform at 0° C. A 10 g. portion of 1,3-bis(3-chlorophenyl)-2-propanone in 50 ml. of chloroform was then added. The mixture was stirred for 3 hours, after which 50 ml. of 40% aqueous methylamine was added. Chloroform was then evaporated from the mixture, and 200 ml. of ethanol and 50 ml. of additional 40% aqueous methylamine were added. The mixture was then stirred under reflux overnight. In the morning, the product was extracted as described in the example above, and chromatographed on a silica gel column with ethyl acetate containing successively larger quantities of methanol. The product, 3,5-bis(3-chlorophenyl)-1-methyl-4(1H)-pyridone, 0.85 g., melted at 164°-167° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1,3-bis(3-chlorophenyl)-2-propanone | ClC=1C=C(C=CC1)CC(CC1=CC(=CC=C1)Cl)=O | C15H12Cl2O
reactant | methylamine | CN | CH5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,5-bis(3-chlorophenyl)-1-methyl-4(1H)-pyridone | ClC=1C=C(C=CC1)C1=CN(C=C(C1=O)C1=CC(=CC=C1)Cl)C | C18H13Cl2NO
